US05117057
A solution of N'-t-butyl-N-(2-pyridinecarbonyl)hydrazine (0.5 g) in 10 ml of toluene was treated with 50% sodium hydroxide (0.61 g). 3,4-dichlorobenzoyl chloride (0.6 g) was added and the mixture was stirred rapidly for 4 hours at 23° C. and then was allowed to stand for 48 hours. The solids were removed by filtration and washed with water to afford 0.75 g of N'-t-butyl-N-(2-pyridinecarbonyl)-N'-(3,4-dichlorobenzoyl)hydrazine as a white solid. m.p. 175°-178° C.

reactant | N'-t-butyl-N-(2-pyridinecarbonyl)hydrazine | 0.5 g | C(C)(C)(C)NNC(=O)C1=NC=CC=C1 | C10H15N3O
reactant | sodium hydroxide | 0.61 g | [OH-].[Na+]
reactant | 3,4-dichlorobenzoyl chloride | 0.6 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-(2-pyridinecarbonyl)-N'-(3,4-dichlorobenzoyl)hydrazine | 0.75 g | C(C)(C)(C)N(NC(=O)C1=NC=CC=C1)C(C1=CC(=C(C=C1)Cl)Cl)=O | C17H17Cl2N3O2
